US06583162B1
Methyl 3-[(2-amino-5-chloro-3-pyridinyl)oxy]methylbenzoate
The title compound was prepared using the method of Preparation 22 from 2-amino-5-chloro-3-pyridinol and methyl 3-(bromomethyl)benzoate to give a tan solid:

reactant | 2-amino-5-chloro-3-pyridinol | NC1=NC=C(C=C1O)Cl | C5H5ClN2O
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
product | Methyl 3-[(2-amino-5-chloro-3-pyridinyl)oxy]methylbenzoate | NC1=NC=C(C=C1OCC=1C=C(C(=O)OC)C=CC1)Cl | C14H13ClN2O3
